US08119673B2
To a solution of slightly impure tert-butyl 2-[(1S)-3-bromo-1-(ethoxycarbonyl)propyl]hydrazinecarboxylate (1.57 g, 4.83 mmol) in dry THF (50 mL) at 0° C. was added LiHMDS (1 M in THF, 4.83 mmol, 4.83 mL). The solution was allowed to attain rt and was then stirred for 2 h. The reaction was quenched by addition of saturated NH4Cl(aq) and diluted with TBME. The phases were separated, the organic phase was dried, filtered and evaporated. The residue was purified using flash chromatography (DCM/EtOAc 4:1, 1:1) to give the pure 1-tert-butyl 3-ethyl (3S)-pyrazolidine-1,3-dicarboxylate (610 mg, 52%) as an oil.

reactant | tert-butyl 2-[(1S)-3-bromo-1-(ethoxycarbonyl)propyl]hydrazinecarboxylate | 4.83 mmol, 1.57 g | BrCC[C@@H](C(=O)OCC)NNC(=O)OC(C)(C)C | C11H21BrN2O4
reactant | LiHMDS | 4.83 mmol, 1 M, 4.83 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-tert-butyl 3-ethyl (3S)-pyrazolidine-1,3-dicarboxylate | 610 mg, 52% | N1(N[C@@H](CC1)C(=O)OCC)C(=O)OC(C)(C)C | C11H20N2O4
